US08865911B2
5-(But-2-ynyloxy)pyrazine-2-carboxylic acid
To a slurry of 5-chloro-pyrazine-2-carboxylic acid (0.79 g, 5.00 mmol) in DMF (35 mL) were added 2-butyn-1-ol (3.74 mL, 50.0 mmol) and potassium tert-butoxide (2.24 g, 20.0 mmol). The resulting mixture was heated at 65° C. overnight. The reaction mixture was neutralized with 2 M HCl and then concentrated in vacuo. A part (400 mg) of the crude material was partitioned between 0.5 M NaOH and a 1:1 mixture of heptane and EtOAc. The aqueous phase was made slightly acidic (pH-3-4) by addition of 1 M HCl. To the obtained suspension was added NaCl (s) and the mixture was extracted twice with EtOAc. The combined organic phases were dried (Na2SO4) and evaporated to give 0.11 g of the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.84 (t, 3 H), 5.06 (q, 2 H), 8.42 (d, 1 H), 8.82 (d, 1 H), 13.38 (br. s., 1 H); MS (ES+) m/z 193 [M+H]+.

reactant | 5-chloro-pyrazine-2-carboxylic acid | 5.00 mmol, 0.79 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | 2-butyn-1-ol | 50.0 mmol, 3.74 mL | C(C#CC)O | C4H6O
reactant | potassium tert-butoxide | 20.0 mmol, 2.24 g | CC(C)([O-])C.[K+]
reactant | HCl | 2 M | Cl | ClH
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 5-(But-2-ynyloxy)pyrazine-2-carboxylic acid | 0.11 g | C(C#CC)OC=1N=CC(=NC1)C(=O)O | C9H8N2O3
